US09328110B2
A solution of dimethyl sulfoxide (DMSO, 7.88 g, 101 mmol) in dichloromethane (130 mL) was cooled in a dry ice/acetone bath and stirred. Oxalyl chloride (9.40 g, 74 mmol) was added dropwise, followed by a solution of 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (20.0 g, 67.3 mmol) in dichloromethane (320 mL). After five minutes triethylamine (20.42 g, 202 mmol) was added, and the mixture was allowed to warm to room temperature. After the addition of chloroform (500 mL), the mixture was washed successively with a saturated ammonium chloride solution (200 mL) and a saturated aqueous sodium bicarbonate solution (200 mL), dried over sodium sulfate, filtered, and concentrated to a dark solid. This solid was slurried in diethyl ether until a fine solid resulted. The product was filtered and dried to provide 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde (17.9 g) as a light brown solid.

reactant | dimethyl sulfoxide | 101 mmol, 7.88 g | CS(=O)C | C2H6OS
reactant | Oxalyl chloride | 74 mmol, 9.40 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 67.3 mmol, 20.0 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO | C18H23N3O
reactant | triethylamine | 202 mmol, 20.42 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 320 mL | ClCCl | CH2Cl2
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde | 17.9 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC=O | C18H21N3O
